US03956500
Thiolacetic acid (22.8 grams) and 41.7 grams of 2-chloromethoxy-1-nitroethane were mixed into 100 cc of tetrahydrofuran at room temperature and the clear solution was heated at reflux for 2 hours. The solution was cooled and 25 grams of pyridine was added. After an additional period of two hours at reflux the mixture was filtered and the solvent was removed from the filtrate by flash evaporation. The residue was taken up in ether, washed with 5 percent aqueous hydrochloric acid and water, dried over magnesium sulfate and the solvent again evaporated. Distillation in vacuo afforded 24.7 g of 2-acetylthiomethoxy-1-nitroethane, bp 106°-109° (0.2-0.5 mm); structure was confirmed by spectral analysis.

reactant | Thiolacetic acid | 22.8 grams | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | 2-chloromethoxy-1-nitroethane | 41.7 grams | ClCOCC[N+](=O)[O-] | C3H6ClNO3
reactant | tetrahydrofuran | 100 cc | O1CCCC1 | C4H8O
solvent | pyridine | 25 grams | N1=CC=CC=C1 | C5H5N
product | 2-acetylthiomethoxy-1-nitroethane | 24.7 g | C(C)(=O)SCOCC[N+](=O)[O-] | C5H9NO4S
